US07098240B2
c) 2-[3-Bromophenyl]-N-(4-methylphenylsulphonyl)ethylamine
3-Bromophenylethylamine hydrochloride (9.44 g) was added to THF (60 ml) containing triethylamine (12.24 ml) and stirred-under argon at 5° C. during the portionwise addition over 15 minutes of 4-methylphenylsulphonyl chloride (11.44 g). The slurry was diluted with THF (50 ml) and stirred for 16 h. The solid was filtered off, washed with THF and the filtrate evaporated. The residue was dissolved in ethyl acetate, washed with 1N hydrochloric acid, water, brine and dried (MgSO4). Chromatography on flash silica, eluting with 0 to 25% ethyl acetate in isohexane gave the product (9.67 g).

reactant | 3-Bromophenylethylamine hydrochloride | 9.44 g | Cl.BrC=1C=C(C=CC1)CCN
reactant | triethylamine | 12.24 ml | C(C)N(CC)CC | C6H15N
reactant | 4-methylphenylsulphonyl chloride | 11.44 g | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | 2-[3-Bromophenyl]-N-(4-methylphenylsulphonyl)ethylamine | 9.67 g | BrC=1C=C(C=CC1)C(CN)S(=O)(=O)C1=CC=C(C=C1)C | C15H16BrNO2S
